* CSSD Amp with Parasitics - AC Analysis
M1 Drain Gate MOS_Source MOS_Source VN2222_RIIL
Rs1 MOS_Source Source {RS1_val}
Rd Vdd Drain {RD_val}
Rs2 Source 0 {RS2_val}
R1 Vdd Gate {R1_val}
R2 Gate 0 {R2_val}
Cs Cs_ESR Source {Cs_val}

* Power Supply & Trace Parasitics
V1 VDD_Src_Pos VDD_Src_Neg 12
Rtrace_VCC_1 VDD_Src_Pos Vdd 0.2
Rtrace_VCC_2 0 VDD_Src_Neg 0.2

* Input Signal & Trace Parasitics
V2 Vin_Src_Pos Vin_Src_Neg AC 1
Rtrace_Vin_1 Vin_Src_Pos Vin 0.1
Rtrace_Vin_2 0 Vin_Src_Neg 0.1

* Input Path & ESR
Rout_Sumber After_Rsig Vin {Rsig_val}
Cin Cin_ESR After_Rsig {Cin_val}
R_ESR_Cin Gate Cin_ESR 3

* Output Path, ESR & Load
Cout Cout_ESR Drain {Cout_val}
R_ESR_Cout Vout Cout_ESR 3
Rin_Osiloskop Vout 0 {RL_val}

* Bypass ESR
R_ESR_Cs 0 Cs_ESR 1.5

* --- Model & Libraries ---
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/bkent/Library/Application Support/LTspice/lib/cmp/standard.mos

* --- Parameter Ekstraksi Silikon ---
.param my_VTO = 1.529
.param my_KP = 31.9m
.param my_LAMBDA = 0.0234

* --- Parameter Komponen E24 ---
.param RD_val = 1600
.param RS1_val = 82
.param RS2_val = 430
.param R1_val = 91k
.param R2_val = 39k
.param Cin_val = 10u
.param Cout_val = 10u
.param Cs_val = 100u

* --- Variabel untuk Python ---
.param RL_val = 1000k
.param Rsig_val = 50

* --- Model MOSFET Level 1 ---
.model VN2222_RIIL NMOS(Level=1 VTO={my_VTO} KP={my_KP} LAMBDA={my_LAMBDA})

* --- AC Analysis Instruction ---
.ac dec 100 10 100MEG
.backanno
.end